US05338740
C. Acetic acid 1-hydroxy-indan-5-yl ester
To a solution of acetic acid 1-oxo-indan-5-yl ester (2700 mg, 14.2 mmol) in MeOH (20 mL) at 0° C. was added sodium borohydride (760 mg, 20 mmol). The reaction mixture was stirred for 2 hours, quenched with saturated aqueous NH4Cl (20 mL) and diluted with ethyl acetate (500 mL). The organic solution was washed with saturated aqueous NaHCO3 (50 mL) and saturated aqueous NaCl (50 mL), dried (Na2SO4) and concentrated in vacuo to give 2.3 grams of the desired product. 1H NMR (250 MHz, CDCl3): d 7.35 (d, 2 H), 6.90 (m, 2 H), 5.2 (t, 1 H), 3.0 (m, 1 H), 2.8 (m, 1 H), 2.5 (m, 1 H), 2.3 (s, 3 H), 1.95 (1 H, m).

reactant | acetic acid 1-oxo-indan-5-yl ester | 14.2 mmol, 2700 mg | O=C1CCC2=CC(=CC=C12)OC(C)=O | C11H10O3
reactant | sodium borohydride | 20 mmol, 760 mg | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | Acetic acid 1-hydroxy-indan-5-yl ester | 2.3 grams | OC1CCC2=CC(=CC=C12)OC(C)=O | C11H12O3
